US07700641B2
C. Synthesis of 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
To a solution of 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one (1.01 g, 2.30 mmol) in THF (50.0 mL) was added paraformaldehyde (1.00 g, 30.0 mmol). Argon was bubbled through the reaction mixture for one hour followed by the addition of diisopropylamine (1.00 g, 10.0 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 20 hours and diluted with ethyl acetate (100 mL). The resulting mixture was washed with water (2×50.0 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness to give 0.67 g (65%) of the title compound: MS (ES+) m/z 486.4 (M+23).

reactant | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one | 2.30 mmol, 1.01 g | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO3
reactant | paraformaldehyde | 30.0 mmol, 1.00 g | C=O | CH2O
reactant | diisopropylamine | 10.0 mmol, 1.00 g | C(C)(C)NC(C)C | C6H15N
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | 0.67 g, 65% | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C30H25NO4
